* SPICE3 file created from inv_1.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_LDJG94 B D S G VSUBS
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.15
C0 G B 0.1481f
C1 G D 0.01942f
C2 B S 0.15159f
C3 D S 0.32105f
C4 D B 0.15159f
C5 G S 0.01942f
C6 S VSUBS 0.0922f
C7 D VSUBS 0.0922f
C8 G VSUBS 0.07969f
C9 B VSUBS 1.41416f
.ends

.subckt sky130_fd_pr__nfet_01v8_J2RCKQ B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
C0 G D 0.01549f
C1 S D 0.16211f
C2 G S 0.01549f
C3 S B 0.14133f
C4 D B 0.14133f
C5 G B 0.2236f
.ends

.subckt inv_1 VDD VIN VOUT VSS
Xsky130_fd_pr__pfet_01v8_LDJG94_0 VDD VDD VOUT VIN VSS sky130_fd_pr__pfet_01v8_LDJG94
Xsky130_fd_pr__nfet_01v8_J2RCKQ_0 VSS VSS VOUT VIN sky130_fd_pr__nfet_01v8_J2RCKQ
C0 VDD VIN 0.12102f
C1 VOUT VDD 0.37574f
C2 VOUT VIN 0.18717f
C3 VDD VSS 1.8319f
C4 VOUT VSS 0.4164f
C5 VIN VSS 0.38975f
.ends

