* SPICE3 file created from opamp.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_RB64JY B D S G VSUBS
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.52
C0 B S 0.14858f
C1 G S 0.02962f
C2 S D 0.17508f
C3 G B 0.18626f
C4 B D 0.14858f
C5 G D 0.02962f
C6 S VSUBS 0.10205f
C7 D VSUBS 0.10205f
C8 G VSUBS 0.1468f
C9 B VSUBS 1.67544f
.ends

.subckt sky130_fd_pr__nfet_01v8_Z8NWMJ B D0 G S1 a_179_n169#
X0 a_179_n169# G S1 B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.29 ps=2.29 w=2 l=0.75
X1 S1 G D0 B sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.29 as=0.58 ps=4.58 w=2 l=0.75
C0 S1 D0 0.13656f
C1 D0 G 0.06112f
C2 S1 G 0.12223f
C3 S1 a_179_n169# 0.13656f
C4 G a_179_n169# 0.06112f
C5 S1 B 0.06297f
C6 D0 B 0.24791f
C7 G B 0.85855f
C8 a_179_n169# B 0.24791f
.ends

.subckt sky130_fd_pr__res_xhigh_po_0p35_DZ4CQ6 R1 R2 VSUBS
X0 R1 R2 VSUBS sky130_fd_pr__res_xhigh_po_0p35 l=2.6
C0 R2 R1 0.00751f
C1 R2 VSUBS 0.585f
C2 R1 VSUBS 0.585f
.ends

.subckt sky130_fd_pr__nfet_01v8_Z5KAHF B D0 G0 S1 G1 a_129_n131#
X0 a_129_n131# G1 S1 B sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.145 ps=1.29 w=1 l=0.5
X1 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.29 as=0.29 ps=2.58 w=1 l=0.5
C0 G1 G0 0.05942f
C1 D0 G0 0.01627f
C2 S1 G1 0.01627f
C3 G1 a_129_n131# 0.01627f
C4 S1 D0 0.09063f
C5 S1 G0 0.01627f
C6 S1 a_129_n131# 0.09063f
C7 S1 B 0.05174f
C8 D0 B 0.14455f
C9 G1 B 0.28352f
C10 G0 B 0.28352f
C11 a_129_n131# B 0.14455f
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_7B8MMQ C2 C1 VSUBS
X0 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=4 w=4
C0 C2 C1 1.73116f
C1 C1 VSUBS 0.38045f
C2 C2 VSUBS 1.40529f
.ends

.subckt sky130_fd_pr__pfet_01v8_PB76X2 D S G w_n144_n264# VSUBS
X0 S G D w_n144_n264# sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
C0 S w_n144_n264# 0.01048f
C1 w_n144_n264# G 0.08002f
C2 S D 0.17948f
C3 D G 0.02866f
C4 S G 0.02866f
C5 D w_n144_n264# 0.01048f
C6 S VSUBS 0.20076f
C7 D VSUBS 0.20076f
C8 G VSUBS 0.22612f
C9 w_n144_n264# VSUBS 0.48557f
.ends

.subckt opamp VDD VSS VIN_P VIN_N OUT BIAS_N
Xsky130_fd_pr__pfet_01v8_RB64JY_0 VDD VDD OUT sky130_fd_pr__pfet_01v8_RB64JY_0/G VSS
+ sky130_fd_pr__pfet_01v8_RB64JY
Xsky130_fd_pr__nfet_01v8_Z8NWMJ_0 VSS sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 BIAS_N VSS
+ OUT sky130_fd_pr__nfet_01v8_Z8NWMJ
Xsky130_fd_pr__res_xhigh_po_0p35_DZ4CQ6_0 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 sky130_fd_pr__pfet_01v8_RB64JY_0/G
+ VSS sky130_fd_pr__res_xhigh_po_0p35_DZ4CQ6
Xsky130_fd_pr__nfet_01v8_Z5KAHF_0 VSS sky130_fd_pr__pfet_01v8_PB76X2_2/G VIN_N sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0
+ VIN_P sky130_fd_pr__pfet_01v8_RB64JY_0/G sky130_fd_pr__nfet_01v8_Z5KAHF
Xsky130_fd_pr__cap_mim_m3_1_7B8MMQ_0 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 OUT VSS
+ sky130_fd_pr__cap_mim_m3_1_7B8MMQ
Xsky130_fd_pr__pfet_01v8_PB76X2_0 VDD VDD VDD VDD VSS sky130_fd_pr__pfet_01v8_PB76X2
Xsky130_fd_pr__pfet_01v8_PB76X2_1 sky130_fd_pr__pfet_01v8_PB76X2_2/G VDD sky130_fd_pr__pfet_01v8_PB76X2_2/G
+ VDD VSS sky130_fd_pr__pfet_01v8_PB76X2
Xsky130_fd_pr__pfet_01v8_PB76X2_2 VDD sky130_fd_pr__pfet_01v8_RB64JY_0/G sky130_fd_pr__pfet_01v8_PB76X2_2/G
+ VDD VSS sky130_fd_pr__pfet_01v8_PB76X2
Xsky130_fd_pr__pfet_01v8_PB76X2_3 VDD VDD VDD VDD VSS sky130_fd_pr__pfet_01v8_PB76X2
C0 OUT VDD 0.37706f
C1 VIN_N BIAS_N 0.02187f
C2 sky130_fd_pr__pfet_01v8_PB76X2_2/G VIN_N 0.10898f
C3 sky130_fd_pr__pfet_01v8_RB64JY_0/G sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 0.1037f
C4 sky130_fd_pr__pfet_01v8_RB64JY_0/G BIAS_N 0.05804f
C5 VIN_P sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 0.03351f
C6 sky130_fd_pr__pfet_01v8_RB64JY_0/G sky130_fd_pr__pfet_01v8_PB76X2_2/G 0.18303f
C7 VIN_P VIN_N 0.17694f
C8 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 BIAS_N 0.01517f
C9 sky130_fd_pr__pfet_01v8_PB76X2_2/G sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 0.00552f
C10 sky130_fd_pr__pfet_01v8_PB76X2_2/G BIAS_N 0.01673f
C11 sky130_fd_pr__pfet_01v8_RB64JY_0/G VIN_P 0.11748f
C12 sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 VDD 0
C13 VIN_P sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 0.00112f
C14 VIN_P BIAS_N 0.00237f
C15 VIN_N VDD 0.01367f
C16 sky130_fd_pr__pfet_01v8_PB76X2_2/G VIN_P 0.12258f
C17 sky130_fd_pr__pfet_01v8_RB64JY_0/G VDD 0.82952f
C18 OUT sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 0.00532f
C19 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 VDD 0.31061f
C20 BIAS_N VDD 0.02843f
C21 sky130_fd_pr__pfet_01v8_PB76X2_2/G VDD 0.76519f
C22 OUT VIN_N 0.00228f
C23 sky130_fd_pr__pfet_01v8_RB64JY_0/G OUT 0.66388f
C24 VIN_P VDD 0.17566f
C25 OUT sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 0.52152f
C26 OUT BIAS_N 0.02709f
C27 sky130_fd_pr__pfet_01v8_PB76X2_2/G OUT 0.00133f
C28 VIN_N sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 0.00189f
C29 sky130_fd_pr__pfet_01v8_RB64JY_0/G sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 0.04997f
C30 VIN_P OUT 0.0026f
C31 sky130_fd_pr__pfet_01v8_RB64JY_0/G VIN_N 0.00151f
C32 sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 0
C33 sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 BIAS_N 0.23065f
C34 sky130_fd_pr__pfet_01v8_PB76X2_2/G sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 0.0059f
C35 sky130_fd_pr__pfet_01v8_PB76X2_2/G VSS 0.59693f
C36 VIN_P VSS 0.2948f
C37 VIN_N VSS 0.36591f
C38 sky130_fd_pr__pfet_01v8_RB64JY_0/G VSS 1.27782f
C39 sky130_fd_pr__cap_mim_m3_1_7B8MMQ_0/C2 VSS 2.30956f
C40 sky130_fd_pr__nfet_01v8_Z8NWMJ_0/D0 VSS 0.58204f
C41 BIAS_N VSS 1.41112f
C42 OUT VSS 2.62365f
C43 VDD VSS 6.53338f
.ends

